US08138173B2
Thionyl chloride (4 mL) and DMF (4 mL) were combined and added dropwise to a mixture of 1-ethyl-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one (1.29 g, 4.40 mmol) and dichloromethane (80 mL) at 0° C. The resulting suspension was stirred 5 minutes at 0° C. before warming to ambient temperature and stirring 50 minutes. The suspension was concentrated under reduced pressure to afford an oily solid that was stirred in acetonitrile and filtered to obtain 450 mg of 4-chloro-1-ethyl-2-phenyl-2H-pyrazolo[3,4-c]quinoline as white crystals, mp 207-209° C. MS (APCI) m/z 308 (M+H)+; Anal. calcd for C18H14ClN3: C, 70.24; H, 4.58; N, 13.65. Found: C, 69.94; H, 4.48; N, 13.54

reactant | Thionyl chloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | 1-ethyl-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 4.40 mmol, 1.29 g | C(C)C=1N(N=C2C(NC=3C=CC=CC3C21)=O)C2=CC=CC=C2 | C18H15N3O
reactant | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-chloro-1-ethyl-2-phenyl-2H-pyrazolo[3,4-c]quinoline | 450 mg | ClC1=NC=2C=CC=CC2C=2C1=NN(C2CC)C2=CC=CC=C2 | C18H14ClN3
